US06376672B1
In analogy to the procedure described in example 1) (f) the (3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]5-hydroxy-piperidine-1-carboxylic acid tert-butyl ester was reacted with the 3-chloromethyl-1-methoxy-naphthalene [example 1) (α)] to yield the (3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 762.3 (M+H)+.

reactant | (3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]5-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)O)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)Cl)OC[C@@H]1OC(OC1)(C)C | C31H42ClNO8
reactant | 3-chloromethyl-1-methoxy-naphthalene | ClCC=1C=C(C2=CC=CC=C2C1)OC | C12H11ClO
product | (3S,4R,5R)-4-[4-[3-(2-chloro-phenoxy)-propoxy]-phenyl]-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)Cl)OC[C@@H]1OC(OC1)(C)C | C43H52ClNO9
